US08563723B2
680 mg N-(2-Chloro-4-{[(4,4-dimethyl-4,5-dihydro-pyrazol-1-yl)-ethylamino-methylene]-sulfamoyl}-phenyl)-acetamide was dissolved in 5 mL MeOH, and 5 mL of concentrated HCl was added. The mixture was stirred overnight at room temperature. The mixture was basified with 2M NaOH, and extracted twice with DCM. The combined organic layers were dried over Na2SO4 and evaporated to dryness. The residue was purified by flash chromatography (DCM/MeOH 99:1) to give 240 mg (40%) of 4-Amino-3-chloro-N-[(4,4-dimethyl-4,5-dihydro-pyrazol-1-yl)-ethylamino-methylene]-benzenesulfonamide as an orange oil. 1H NMR (400 MHz, CDCl3) δ 1.17 (t, J=7 Hz, 3H), 1.21 (s, 6H), 3.43-3.52 (m, 2H), 3.75 (br.s., 2H), 4.37 (br.s., 2H), 6.73 (s, 1H), 6.76 (d, J=8 Hz, 1H), 6.86 (br.s., 1H), 7.62 (dd, J=2 and 8 Hz, 1H), 7.83 (d, J=2 Hz, 1H).

reactant | N-(2-Chloro-4-{[(4,4-dimethyl-4,5-dihydro-pyrazol-1-yl)-ethylamino-methylene]-sulfamoyl}-phenyl)-acetamide | 680 mg | ClC1=C(C=CC(=C1)S(N=C(NCC)N1N=CC(C1)(C)C)(=O)=O)NC(C)=O | C16H22ClN5O3S
reactant | HCl | 5 mL | Cl | ClH
reactant | NaOH | 2M | [OH-].[Na+]
solvent | MeOH | 5 mL | CO | CH4O
product | 4-Amino-3-chloro-N-[(4,4-dimethyl-4,5-dihydro-pyrazol-1-yl)-ethylamino-methylene]-benzenesulfonamide | 240 mg, 40% | NC1=C(C=C(C=C1)S(=O)(=O)N=C(NCC)N1N=CC(C1)(C)C)Cl | C14H20ClN5O2S
